US04147794
2-(2-Acetylhydrazino)-5-(2-methylphenyl)-1,3,4-thiadiazole
A solution of 2-hydrazino-5-(2-methylphenyl)-1,3,4-thiadiazole hydrochloride (1.0 g) in a mixture of acetic anhydride (0.5 ml) and pyridine (0.5 ml) was kept at room temperature under nitrogen for 0.5 hr. The solution was poured into water (100 ml) and extracted three times with methylene chloride. The organic layer was evaporated and the residue was fractionated on two 20 × 20 cm, 2 mm thick silica preparative t.l.c. plates by eluting with chloroform-methanol (4:1). The resultant product was crystallised from ethyl acetate (0.32 g; 31%) m.p. 165°-6°. C11H12N4OS requires C, 52.8; H, 5.6; N, 22.4; S, 12.8 Found C, 52.8; H, 5.1; N, 22.8; S, 13.2%

reactant | 2-hydrazino-5-(2-methylphenyl)-1,3,4-thiadiazole hydrochloride | 1.0 g | Cl.N(N)C=1SC(=NN1)C1=C(C=CC=C1)C
reactant | water | 100 ml | O | H2O
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Acetylhydrazino)-5-(2-methylphenyl)-1,3,4-thiadiazole | C(C)(=O)NNC=1SC(=NN1)C1=C(C=CC=C1)C | C11H12N4OS
